Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Overdose 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ h/o social anxiety, GAD, ADHD, and MDD (no 
prior hospitalizations or suicide attempts) who was admitted 
from the ER following a suicide attempt. Patient reports she was 
drinking alcohol at a party, came home from party and felt 
"worthless." Reports taking "a handful" of Lexapro and zyrtec at 
0400 ___ in attempt to harm self. Patient immediately 
regretted decision and called EMS. Pt denies pain, endorses 
nausea, and vomited in ambulance x1.  
 
In the ED, initial vitals: T 97.8 HR 100 BP 122/80 RR 24 100% RA

Labs notable for:
Serum EtOH 196 
Serum ASA, Acetmnphn, ___, Tricyc Negative 

Upon arrival to ___, the patient was hemodynamically stable. On 
interview, she endorsed talking around ___ of her bottle of 
methylphenidate as well as Zyrtec. She had only taken her 
morning Lexapro prior to arrival. She denied any current SI. Did 
endorse visual and auditory hallucinations, though she was not 
able to articulate what these were. 
 
Past Medical History:
social anxiety, GAD
ADHD
Major depressive disorder
 
Social History:
___
Family History:
Sister: OCD, night terrors
+family history of addiction, MDD, anxiety
paternal grandfather's brother suspected to have completed 
suicide
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=============================
VITALS: Reviewed in metavision 
GENERAL: Anxious, tearful appearing woman in no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP not elevated, full ROM without rigidity 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: tachycardia, no murmurs
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Diaphoretic, flushed without ulcers or injury  
NEURO: AAOx3, endorses auditory and visual hallucination, no 
focal deficits
ACCESS: peripheral

DISCHARGE PHYSICAL EXAM:
=============================
-Vitals: reviewed in OMR
-General: NAD, alert and interactive 
-HENT: atraumatic, normocephalic, moist mucus membranes 
-Eyes: PERRL, EOMi
-Cardiovascular: RRR, no murmur 
-Pulmonary: clear b/l, no wheeze 
-GI: Soft, nontender, nondistended, bowel sounds present
-GU: no foley, no CVA/suprapubic tenderness 
-MSK: No pedal edema, no joint swelling 
-Skin: No rashes, ulcerations, or jaundice
-Neuro: AAOx3, no focal neurological deficits, CN ___ grossly 
intact 
-Psychiatric: overall depressed mood with appropriate affect 
 
Pertinent Results:
ADMISSION LABS:
=============================
___ 05:23AM BLOOD WBC-11.8* RBC-5.01 Hgb-15.1 Hct-44.2 
MCV-88 MCH-30.1 MCHC-34.2 RDW-12.0 RDWSD-38.8 Plt ___
___ 05:30AM BLOOD ___ PTT-29.6 ___
___ 05:23AM BLOOD Glucose-140* UreaN-11 Creat-0.7 Na-145 
K-3.8 Cl-104 HCO3-21* AnGap-20*
___ 07:37PM BLOOD ALT-16 AST-34 CK(CPK)-120 AlkPhos-117* 
TotBili-0.5
___ 05:23AM BLOOD CK(CPK)-121
___ 05:23AM BLOOD Calcium-10.3 Phos-2.9 Mg-2.3*
___ 07:42PM BLOOD ___ pO2-75* pCO2-25* pH-7.43 
calTCO2-17* Base XS--5
___ 07:42PM BLOOD Lactate-2.3*

DISCHARGE LABS:
=============================
___ 06:52AM BLOOD WBC-7.2 RBC-4.28 Hgb-12.9 Hct-38.9 MCV-91 
MCH-30.1 MCHC-33.2 RDW-12.1 RDWSD-39.8 Plt ___
___ 06:52AM BLOOD Glucose-104* UreaN-15 Creat-0.7 Na-145 
K-4.3 Cl-105 HCO3-26 AnGap-14
___ 05:30AM BLOOD ALT-14 AST-17 LD(LDH)-200 AlkPhos-114* 
TotBili-0.7
___ 05:30AM BLOOD Albumin-3.5 Calcium-8.2* Phos-3.6 Mg-2.3*
___ 05:36AM BLOOD Lactate-0.9
 
Brief Hospital Course:
Ms. ___ is a ___ h/o anxiety, ADHD, and MDD (no prior 
hospitalizations or suicide attempts) who was admitted from the 
ER to the ICU following a suicide attempt with overdose of 
methylphenidate and zyrtec.

=================  
ACTIVE ISSUES  
=================  
1. Suicide attempt h/o depression
-Reports ingestion w/ EtOH, Lexapro, and zyrtec.  There is 
concern she may have overdosed on other medications including 
methylphenidate.  Toxicology positive for EtOH 196 otherwise 
negative.  She denies any previous suicide attempts but 
continues to have SI.  She was admitted to ICU ___ for 
close monitoring given possibility of ingestion of unknown 
medications under a ___ with a 1:1 sitter.  As per 
toxicology recommendations she was monitored for 48 hours for 
any delayed effects without any events on telemetry or EKG and 
normalization of her labs.  Given her history of depression and 
anxiety w/ plans for suicide psychiatry recommended her for 
inpatient psych admission.  She was medically cleared and 
discharged to inpatient psychiatry.  Her escitalopram was held 
during admission deferring psychiatric medication regimen to her 
inpatient psych team.  Her outpatient psychiatrist Dr. ___ 
___ and psychologist ___ who she will see after 
discharge from inpatient psychiatry. 

2. Anion gap metabolic lactic acidosis 
-In setting of acute overdose that resolved with IV fluids.   

CHRONIC MEDICAL PROBLEMS
1. ADHD: methylphenidate held as per psychiatry  

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Concerta (methylphenidate HCl) 36 mg oral QAM 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Cetirizine 10 mg PO DAILY 
4. ___ FE ___ (28) (norethindrone-e.estradiol-iron) 1 mg-20 
mcg (21)/75 mg (7) oral DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Simethicone 40-80 mg PO QID:PRN dyspepsia  
3.  ___ FE ___ (28) (norethindrone-e.estradiol-iron) 1 mg-20 
mcg (21)/75 mg (7) oral DAILY  
4. HELD- Cetirizine 10 mg PO DAILY  This medication was held. Do 
not restart Cetirizine until cleared by psychiatry
5. HELD- Concerta (methylphenidate HCl) 36 mg oral QAM  This 
medication was held. Do not restart Concerta until cleared by 
psychiatry
6. HELD- Escitalopram Oxalate 10 mg PO DAILY  This medication 
was held. Do not restart Escitalopram Oxalate until cleared by 
psychiatry
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Suicide attempt with alcohol and medication ingestion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted after an intentional overdose of alcohol and 
multiple medications.  You were admitted to the ICU for close 
monitoring without any further events.  Thankfully you did not 
sustain any significant organ damage.  At the recommendation of 
psychiatry you will continue care at an inpatient psychiatric 
facility and then transition care to your outpatient team.  You 
have the support of your family, friends, and 
medical/psychiatric teams.

It was a pleasure taking care of you.
-Your ___ team 
 
Followup Instructions:
___